US06127382
(1-Isopropyl-4,4-dimethyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)amine (Compound 1)
A 25 mL round bottom flask was connected to a reflux condenser and the apparatus flame-dried under high vacuum. The vacuum was broken by the addition of dry argon, and the flask was allowed to cool to room temperature. The flask was charged with 0.135 g (1.4 mmol) of powdered sodium t-butoxide, 9.2 mg (0.01 mmol) of tris(dibenzylideneacetone)dipalladium(0) (Pd2 (dba)3), and 19 mg (0.03 mmol) of (S)-(-)-2,2'-bis(diphenylphosphino)1,1'-binaphthyl (BINAP), and the apparatus was evacuated and filled with dry argon 3 times. A solution of 6-bromo-1-isopropyl-4,4-dimethyl-2-oxo-1,2,3,4-tetrahydroquinoline (0.296 mg, 1 mmol) available as described in U.S. Pat. No. 5,399,56, and benzophenone imine (0.218 g, 1.2 mmol) in 4 mL of dry toluene was added. The flask was immersed in an oil bath and heated to 80° C. until all of the starting material had been consumed as judged by thin layer chromatography (TLC) analysis. The solution was cooled to room temperature and diluted with 40 mL of ether. The mixture was filtered and concentrated in vacuo. The residue was dissolved in tetrahydrofuran (THF, 0.3 M) and 2.0 M HCl was added. The solution was stirred for 20 minutes at room temperature and partitioned between 0.5 M HCl and 2:1 hexane/ethyl acetate. The aqueous layer was made basic with 1 M NaOH and the product extracted with methylene chloride, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel using 33% ethyl acetate in hexanes, to produce the title compound.

reactant | sodium t-butoxide | 1.4 mmol, 0.135 g | CC(C)([O-])C.[Na+]
reactant | 6-bromo-1-isopropyl-4,4-dimethyl-2-oxo-1,2,3,4-tetrahydroquinoline | 1 mmol, 0.296 mg | BrC=1C=C2C(CC(N(C2=CC1)C(C)C)=O)(C)C | C14H18BrNO
reactant | benzophenone imine | 1.2 mmol, 0.218 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 9.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1-Isopropyl-4,4-dimethyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)amine | C(C)(C)N1C(CC(C2=CC(=CC=C12)N)(C)C)=O | C14H20N2O
